US07495018B2
5-(2,6-dimethyl-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfinylphenyl)-1,3-thiazole
To a solution of 5-(2,6-dimethyl-4-pyridyl)-4-(3-methylphenyl)-2-[4-(methylthio)phenyl]-1,3-thiazole (0.41 g, 1.0 mmol) in N,N-dimethylformamide (15 mL) was added m-chloroperbenzoic acid (0.25 g, 1.0 mmol), and the mixture was stirred for 1 hour at room temperature. A 8N aqueous sodium hydroxide solution was poured into the reaction mixture, and extracted with ethyl acetate. The extracted solution was washed with brine, dried, then, the solvent was distilled off. The residue was purified by column chromatography (filler: Chromatorex NH DM1020 (trade name, manufactured by Fuji Silysia Chemical Lte.), hexane-ethyl acetate=1:2), to obtain a title compound (0.41 g, yield 97%).

reactant | 5-(2,6-dimethyl-4-pyridyl)-4-(3-methylphenyl)-2-[4-(methylthio)phenyl]-1,3-thiazole | 1.0 mmol, 0.41 g | CC1=NC(=CC(=C1)C1=C(N=C(S1)C1=CC=C(C=C1)SC)C1=CC(=CC=C1)C)C | C24H22N2S2
reactant | m-chloroperbenzoic acid | 1.0 mmol, 0.25 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 5-(2,6-dimethyl-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfinylphenyl)-1,3-thiazole | 0.41 g, yield 97% | CC1=NC(=CC(=C1)C1=C(N=C(S1)C1=CC=C(C=C1)S(=O)C)C1=CC(=CC=C1)C)C | C24H22N2OS2
